US07417247B2
1,2,4,5-Tetraphenyl-3-p-vinylphenylcyclopenta-1,3-diene was prepared from 37.8 g (0.098 mol) of 2,3,4,5-tetraphenylcyclopent-2-enone and 0.5 mol of p-vinylphenyllithium (from 7 g (1 mol) of Li and 91.52 g (0.5 mol of bromostyrene) in 300 ml of ether and was purified analogously to 1,2,3,4-tetraphenyl-5-p-vinylphenylcyclopenta-1,3-diene. (Yield: 37 g (80%))

reactant | 2,3,4,5-tetraphenylcyclopent-2-enone | 0.098 mol, 37.8 g | C1(=CC=CC=C1)C=1C(C(C(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H22O
reactant | p-vinylphenyllithium | 0.5 mol | C(=C)C1=CC=C(C=C1)[Li]
reactant | bromostyrene | 0.5 mol | BrC=CC1=CC=CC=C1 | C8H7Br
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1,2,4,5-Tetraphenyl-3-p-vinylphenylcyclopenta-1,3-diene | C1(=CC=CC=C1)C1=C(C(=C(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=C)C1=CC=CC=C1 | C37H28
